data/core_train_final.csv
"CC1CC(C1)(C)[CH2:10].[Cl:20][Cl:21]>>CC1CC(C1)(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;21,20-10,20;21,20-21",Room Temperature,Propagation,abstraction
"[H:10][CH2:11]OC1=C(/C(CC2)=[C:20]/CCCC)C2=C([O])C(OC)=C1OC>>[CH2:11]OC3=C(/C(CC4)=[C:20]([H:10])/CCCC)C4=C([O])C(OC)=C3OC 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][C:10]([CH3:11])([CH3:13])[S:12].[CH3:14][C:15](=[CH2:18])[CH:16]=[CH2:17]>>[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][C:10]([CH3:11])([CH3:13])[S:12][CH2:17][CH:16]=[C:15]([CH3:14])[CH2:18] 12-12,17; 17,16-12,17; 17,16-15,16; 15,18-15,16; 15,18-18",Room Temperature,Propagation,addition
"[H:20][CH2:21]C(C)(C)CC(C)(C)[O:10]>>[H:20][O:10]C(C)(C)CC(C)(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:5]1[CH2:4][CH2:3][CH2:8][CH2:7][CH2:6]1.[Cl:1][Cl:2].[He]>>[He].[CH2:5]1[CH2:4][CH2:3][CH2:8][CH2:7][CH2:6]1.[Cl:1].[Cl:2] 2,1-2;1,2-1",Light,Initiation,homolyze
"C1C[CH:10]C1.[Cl:20][Cl:21]>>C1C[CH:10](C1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:12][C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH3:11])([C:3]1=[CH:14][CH2:15][CH2:16][CH:2]1[O:1])[O:13]>>[H:12][O:1][CH:2]1[CH2:16][CH2:15][CH:14]=[C:3]1[C:4](=[O:13])[CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH3:11] 1-1,12; 4,12-4,13; 4,12-12,1; 13-4,13",Room Temperature,Termination,abstraction
"C[C:21](C)(C#N)/[N:20]=N/C(C)(C)C#N>>C[C:21](C)C#N.CC(C)(C#N)N=[N:20] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC[CH:20]CC.[Cl:10][Cl:11]>>CC[CH:20](CC)[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"C[C:21](C)C1(CCCCC1)C.[Br:10][Br:11]>>CC2([C:21](C)([Br:10])C)CCCCC2.[Br:11] 21-10,21;10,11-10,21;10,11-11",Room Temperature,Propagation,abstraction
"[O:8]=[S:5](=[O:6])([O-:7])[O:4][O:3][S:2](=[O:1])(=[O:10])[O-:9].[Ar:11]>>[O:8]=[S:5](=[O:6])([O-:7])[O:4].[O-:9][S:2](=[O:10])(=[O:1])[O:3].[Ar:11] 4,3-3; 4,3-4",Room Temperature,Initiation,homolyze
"CCCCCCCCCCCC[S:10].CCOC(=O)[CH:21]=[CH2:20]>>CCCCCCCCCCCC[S:10][CH2:20][CH:21]C(=O)OCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCCCCCCCCCSC[CH:10]C(=O)OC.COC(=O)[CH:21]=[CH2:20]>>CCCCCCCCCCCCSC[CH:10]([CH2:20][CH:21]C(=O)OC)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(C)(C)C.[Br:20][Br:21].[He]>>[He].CCC(C)(C)C.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:10][O:9][S:7](=[O:6])[O-:8].[O-:3][S:2](=[O:1])(=[O:5])[O:4].[Na+:11]>>[H:10][O:4][S:2](=[O:5])(=[O:1])[O-:3].[O-:8][S:7](=[O:6])[O:9].[Na+:11] 4-4,10; 9,10-4,10; 9,10-9",Room Temperature,Propagation,abstraction
"[H:20][C:21]12CCCCC1CCCC2.[Br:10]>>[H:20][Br:10].C1CC[C:21]2CCCCC2C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC[CH:10]F.[CH2:20]=[CH:21]F>>CCCC[CH:10]([CH2:20][CH:21]F)F 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH2:7]1[CH2:8][CH:3]=[CH:4][CH:5][CH2:6]1.[Cl:1][Cl:2]>>[CH2:7]1[CH2:8][CH:3]=[CH:4][CH:5]([CH2:6]1)[Cl:1].[Cl:2] 5-1,5;1,2-1,5;1,2-2",Room Temperature,Propagation,abstraction
"[CH3:10].[I:20][I:21]>>[CH3:10][I:20].[I:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:10]C=CC1CCCCC1.[Br:20][Br:21]>>C1CCC(CC1)C=C[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]1=[C:5]([CH2:10][C:11]([CH2:19][C:2]1=[O:1])([CH2:16][C:17]=[CH2:18])[C:12](=[O:15])[O:13][CH3:14])[O:6][C:7](=[O:9])[CH3:8]>>[H:4][C:3]1[C:2](=[O:1])[CH2:19][C:11]2([CH2:16][C:17](=[CH2:18])[C:5]1([CH2:10]2)[O:6][C:7](=[O:9])[CH3:8])[C:12](=[O:15])[O:13][CH3:14] 17-17,5; 5,3-17,5; 5,3-3",Room Temperature,Propagation,addition
"[H:3][O:4].[C:1]=[O:2]>>[H:3][O:4][C:1]=[O:2] 4-4,1;1-4,1",Room Temperature,Termination,recombine
"CCCC(C)[C:21]([H:20])=O.CCCC(C)C(O[O:10])=O>>CCCC(C)[C:21]=O.CCCC(C)C(O[O:10][H:20])=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC=C(C)[CH2:10].[Br:20][Br:21]>>CC=C(C)[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:7][C:8]([CH3:9])[C:10]#[N:11].[C:2](=[C:4]([F:6])[F:5])([F:1])[Cl:3]>>[CH3:7][C:8]([CH3:9])([C:10]#[N:11])[C:4]([C:2]([F:1])[Cl:3])([F:6])[F:5] 8-8,4; 4,2-8,4; 4,2-2",Room Temperature,Propagation,addition
"[H:20][Br:21].C[CH:10]CBr>>[H:20][CH:10](C)CBr.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:10].C[CH:21]=[CH2:20]>>[CH3:10][CH2:20][CH:21]C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C1C[CH:20]1.[Cl:10][Cl:11]>>C1C[CH:20]1[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[H:6][C:4]([H:7])([CH3:5])[C:3](=[CH2:8])[CH2:2][CH3:1].[Br:9]>>[H:6][C:4]([CH3:5])[C:3](=[CH2:8])[CH2:2][CH3:1].[H:7][Br:9] 9-9,7;7,4-9,7;4,7-4",Room Temperature,Propagation,abstraction
